US05472978
a) (2S)-2-t-Butyloxycarbonylamino-3-phenyl-1-propanol
To a solution of L-Phenylalaninol (3.52 g) in dichloromethane (35 ml) was added di-t-butyldicarbonate (5.09 g). After 16h the solvent was removed in vacuo and the residue chromatographed on silica gel (eluting with 10-20% ethyl acetate in petroleum ether to give the title compound.

reactant | L-Phenylalaninol | 3.52 g | N[C@@H](CC1=CC=CC=C1)CO | C9H13NO
reactant | di-t-butyldicarbonate | 5.09 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | (2S)-2-t-Butyloxycarbonylamino-3-phenyl-1-propanol | C(C)(C)(C)OC(=O)N[C@H](CO)CC1=CC=CC=C1 | C14H21NO3
